US07273882B2
To a stirred solution of 4-amino-3-chloro-5-methylbenzonitrile (0.516 g, 3.1 mmol) in 10 mL of THF at room temperature was added 6.6 mL of 1.0 M NaHMDS in THF. The resulting reaction mixture was stirred at room temperature for 30 min., at which time acetyl chloride (3.1 mmol) was added. DCM (100 mL) and water (100 mL) were added to the reaction mixture after being stirred overnight, followed by the addition of 5 mL of 1.4 N HCl aqueous solution. Layers were separated and the aqueous layer was extracted with DCM (2×100 mL). The extracts were combined and solvents were evaporated in vacuo. The residue was purified by flash chromatography (5-20% EtOAc/DCM) to give 0.220 g of 4-acetamido-3-chloro-5-methylbenzonitrile. 1H NMR (500 MHz, CDCl3) δ 7.57 (s, 1 H), 7.46 (s, 1 H), 7.02 (s, 1 H), 2.31 (s, 3 H), 2.26 (s, 3 H).

reactant | 4-amino-3-chloro-5-methylbenzonitrile | 3.1 mmol, 0.516 g | NC1=C(C=C(C#N)C=C1C)Cl | C8H7ClN2
reactant | NaHMDS | 1.0 M, 6.6 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | acetyl chloride | 3.1 mmol | C(C)(=O)Cl | C2H3ClO
reactant | HCl | 1.4 N, 5 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-acetamido-3-chloro-5-methylbenzonitrile | 0.220 g | C(C)(=O)NC1=C(C=C(C#N)C=C1C)Cl | C10H9ClN2O
